US09102662B2
5-(3,5-Difluoro-benzyl)-1H-indazol-3-ylamine [(IIIA), R1=R2=R3=H, R=3,5-difluorophenyl]
A mixture of 5-(3,5-difluoro-benzyl)-2-fluoro-benzonitrile (20 g, 80.9 mmol) and hydrazine hydrate (19.6 mL, 404 mmol) in n-butanol (200 mL) was heated at 120° C. overnight. The reaction mixture was diluted with water/ethyl acetate and the organic phase washed twice with brine, dried and evaporated. Crude was triturated with diethyl ether and filtered to afford 13 gr of final product. Purification of the resulting organic phase by chromatography over silica gel (DCM/EtOH 95:5) afforded further 6.3 g of the title compound (total amount 19.2 g, 92% yield).

reactant | 5-(3,5-difluoro-benzyl)-2-fluoro-benzonitrile | 80.9 mmol, 20 g | FC=1C=C(CC=2C=CC(=C(C#N)C2)F)C=C(C1)F | C14H8F3N
reactant | hydrazine hydrate | 404 mmol, 19.6 mL | O.NN
solvent | n-butanol | 200 mL | C(CCC)O | C4H10O
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | 5-(3,5-Difluoro-benzyl)-1H-indazol-3-ylamine | 13 gr | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
